US09227918B2
To a solution of 11.21 g (51.1 mmol) of 2-(3,4-dimethoxyphenyl)-3-methylbutanenitrile in 126 mL of tetrahydrofuran (THF) at −30° C., was slowly added 46.0 mL (46.0 mmol) of sodium bis(trimethylsilyl)amide (NaHMDS, 1.0 M in THF). The mixture was stirred at −30° C. for 10 minutes and 9.40 mL (256 mmol) of 1,3-dibromopropane was added dropwise. The mixture was warmed to 22° C. and stirred for about 16 h. A saturated aqueous solution of NH4Cl was then added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. The residue was purified by flash chromatography on silica gel eluting first with hexane and then gradually increasing to 15% ethyl acetate/hexane to give 5-bromo-2-(3,4-dimethoxyphenyl)-2-isopropylpentanenitrile as an oil.

reactant | 2-(3,4-dimethoxyphenyl)-3-methylbutanenitrile | 51.1 mmol, 11.21 g | COC=1C=C(C=CC1OC)C(C#N)C(C)C | C13H17NO2
reactant | sodium bis(trimethylsilyl)amide | 46.0 mmol, 1.0 M, 46.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,3-dibromopropane | 256 mmol, 9.40 mL | BrCCCBr | C3H6Br2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 126 mL | O1CCCC1 | C4H8O
product | 5-bromo-2-(3,4-dimethoxyphenyl)-2-isopropylpentanenitrile | BrCCCC(C#N)(C(C)C)C1=CC(=C(C=C1)OC)OC | C16H22BrNO2
